US08614328B2
A mixture of 3-(3-fluoro-benzyloxy)-phthalic acid (1.9 g, 6.7 mmol), alpha-amino-glutarimide hydrochloride (1.2 g, 7.0 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(3-fluoro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (2.3 g, 89% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 60/40 CH3CN/0.1% H3PO4, 2.22 min (99.9%); mp, 241-243° C.; 1H NMR (DMSO-d6) δ 2.01-2.08 (m, 1H, CHH), 2.55-2.62 (m, 2H, CH2), 2.83-2.95 (m, 1H, CHH), 5.11 (dd, J=6, 12 Hz, 1H, CH), 5.40 (s, 2H, CH2), 7.15-7.87 (m, 7H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.92, 48.77, 69.11, 113.61, 113.90, 114.52, 114.80, 115.71, 116.70, 120.13, 122.96, 122.99, 130.49, 130.60, 133.25, 137.05, 139.08, 139.18, 155.21, 160.59, 163.81, 165.33, 166.74, 169.89, 172.73. Anal Calcd For C20H15N2O5F: C, 62.83; H, 3.95; N, 7.33; F 4.97. Found: C, 62.72; H, 3.75; N, 7.27; F, 5.02.

reactant | 3-(3-fluoro-benzyloxy)-phthalic acid | 6.7 mmol, 1.9 g | FC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C15H11FO5
reactant | alpha-amino-glutarimide hydrochloride | 7.0 mmol, 1.2 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(3-fluoro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 2.3 g, 89% yield | FC=1C=C(COC2=C3C(N(C(C3=CC=C2)=O)C2C(NC(CC2)=O)=O)=O)C=CC1 | C20H15FN2O5
